US07396847B2
(5R)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]-4,5-dihydroisoxazole (0.5 g, 1.1 mmol), (5R)-3-(4-iodophenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (0.49 g, 1.32 mmol), and tri-2-furylphosphine (0.051 g, 0.22 mmol) were dissolved in 1,4-dioxane (6 ml) and degassed three times. Tris (dibenzylideneacetone)palladium (0) (0.1 g, 0.11 mmol) was added and the solution was degassed three times. The solution was stirred and heated to 90° C. for 18 hours. The mixture was concentrated in vacuo and then purified by silica flash chromatography with 5-10% methanol in dichloromethane as eluent giving 0.24 g desired product.

reactant | 5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]-4,5-dihydroisoxazole | 1.1 mmol, 0.5 g | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)[Sn](C)(C)C
reactant | (5R)-3-(4-iodophenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 1.32 mmol, 0.49 g | IC1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C12H11IN4O2
reactant | tri-2-furylphosphine | 0.22 mmol, 0.051 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.24 g | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C28H35N5O4Si
